US08017626B2
Method 21: Methyl 2-(7-(3,5-dimethylisoxazol-4-yl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate
A mixture of methyl 2-(7-bromo-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate (400 mg, 1084 μmol), 3,5-dimethylisoxazol-4-ylboronic acid (305 mg, 2167 μmol) and Pd(PPh3)4 (125 mg, 108 μmol) in 8 ml 1,2-dimethoxyethane (or DMF) and 1.6 ml 2M aqueous Na2CO3 was heated to 75° C. and stirred for 12 hours. The mixture was cooled to 24° C., treated with 1M aqueous HCl and CHCl3, after which solids precipitated. The organic layer was separated and the solids were collected by filtration, and washed with MeOH.

reactant | methyl 2-(7-bromo-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | 1084 μmol, 400 mg | BrC1=CC=C2C(=C(C(N(C2=C1)C)=O)C(=O)NCC(=O)OC)O | C14H13BrN2O5
reactant | 3,5-dimethylisoxazol-4-ylboronic acid | 2167 μmol, 305 mg | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | Na2CO3 | 2M, 1.6 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | 1,2-dimethoxyethane | 8 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 108 μmol, 125 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 2-(7-(3,5-dimethylisoxazol-4-yl)-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | CC1=NOC(=C1C1=CC=C2C(=C(C(N(C2=C1)C)=O)C(=O)NCC(=O)OC)O)C | C19H19N3O6
